### PR TITLE
Closed ball + LinearContinuousBounded

### PR DESCRIPTION
**Pull request by mkerjean**
two things:
- Lemmas showing that for linear functions between normed vector spaces, boundedness and continuity are equivalent.
  NB: includes PR #183 (to be closed without merge?)
  TODO: to be rephrased with Landau notation in another PR (issue?)
- A theory of closed balls, sometimes easier to manipulate than the open balls at the core of normedtype.v . 
  NB: duplicates lemmas about `closure` that are in https://github.com/math-comp/analysis/pull/268
  TODO: merge PR #268 before and rebase

### CODE REVIEW

**Review by mkerjean — COMMENTED** [review]
No idea why the first two commits are here.

File: theories/normedtype.v [hunk 1]
```diff
@@ -4152,3 +4152,310 @@ rewrite !nbhs_nearE !near_map !near_nbhs in fxP *; have /= := cfx P fxP.
...
+Lemma closed_closed_ball (R: realFieldType) (V:  normedModType R) (x : V) (e : R) :
+  (0 < e ) -> closed (closed_ball  x e).
+Proof.
+  by move => e0; rewrite closure_closed_ball; first by apply: closed_closed_ball_.
+Qed.
+
+
+
+
+Lemma closed_open_ball (R: numDomainType) (V:  pseudoMetricType R) (x : V) (r : R) :
```
Comment (affeldt-aist) [inline theories/normedtype.v:4430]: the hypothesis `0 < r` is not necessary (it can be proved by `move=> _; exists r; exact: subset_closure`)

**Comment by affeldt-aist** [comment]
@CohenCyril could you take a look to this PR? do you think we can think about merging in a very near future? (see also the last meeting minutes)
